US07074800B1
A mixture of (2S)4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline (100 mg, 0.28 mmol), (prepared as described for the starting material in Example 297), and isopropylamine (1.0 ml) in THF (10 ml) was stirred at 75° C. for 18 hours under an atmosphere of nitrogen and then allowed to cool to ambient temperature. The mixture was filtered and the filtrate evaporated in vacuo. The residue was purified by silica gel chromatography using gradient elution with dichloromethane/methanolic ammonia (7M) (100/0 to 90/10) to give (2S)-7-(2-hydroxy-3-(isopropylamino)propoxy)4-(indol-5-yloxy)-6-methoxyquinazoline (66 mg, 56%).

reactant | (2S)4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline | 0.28 mmol, 100 mg | N1C=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1OC1 | C20H17N3O4
reactant | isopropylamine | 1.0 ml | C(C)(C)N | C3H9N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2S)-7-(2-hydroxy-3-(isopropylamino)propoxy)4-(indol-5-yloxy)-6-methoxyquinazoline | 66 mg, 56% | O[C@H](COC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC)CNC(C)C | C23H26N4O4
